US07906677B2
To a solution of 1.21 g of 4-ethylaniline, 1.10 g of 2,3,6-trifluoro-bromobenzene in 10 g of toluene is added consecutively 350 mg BINAP and 300 mg of bis-dibenzylideneaceton-palladium (0) [Pd(dba)2) in 3 ml of toluene and 0.9 g of sodium tert.-butoxide in 3 ml toluene. The mixture is flushed with nitrogen and heated for 6 h under reflux. After cooling to room temperature, water (30 ml), concentrated hydrochloric acid (10 ml) and hyflo (1 g) are added and stirring is continued for 1 h. The mixture is filtered and the filtrate is separated into its phases. The organic phase is washed three times with water, dried using magnesium sulfate and evaporated to dryness. The residue can be used as such in the following step or purified by flash chromatography on silica using toluene as the eluent affording 1.13 g of N-(2′,3′,6′-trifluorophenyl)-4-ethylanilin.

reactant | 4-ethylaniline | 1.21 g | C(C)C1=CC=C(N)C=C1 | C8H11N
reactant | 2,3,6-trifluoro-bromobenzene | 1.10 g | FC1=C(C(=CC=C1F)F)Br | C6H2BrF3
reactant | BINAP | 350 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert.-butoxide | 0.9 g | CC(C)([O-])C.[Na+]
solvent | toluene | 10 g | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(dba)2 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | N-(2′,3′,6′-trifluorophenyl)-4-ethylanilin | 1.13 g | FC1=C(C(=CC=C1F)F)NC1=CC=C(C=C1)CC | C14H12F3N
